US06573293B2
5-(5-Fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-2,4-dimethyl-1H-pyrrole-3-carboxylic Acid (2-pyrrolidin-1-yl-ethyl)-amide
5-Fluoro-1,3-dihydro-indol-2-one was condensed with 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-pyrrolidin-1-yl-ethyl)-amide to give the title compound.

reactant | 5-Fluoro-1,3-dihydro-indol-2-one | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-pyrrolidin-1-yl-ethyl)-amide | N1(CCCC1)CCNC(=O)C1=C(NC(=C1C)C=O)C | C14H21N3O2
product | 5-(5-Fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-2,4-dimethyl-1H-pyrrole-3-carboxylic Acid (2-pyrrolidin-1-yl-ethyl)-amide | N1(CCCC1)CCNC(=O)C1=C(NC(=C1C)C=C1C(NC2=CC=C(C=C12)F)=O)C | C22H25FN4O2
